US05990105
0.33 g (0.00124 mol) of (4,6-dibromopyrimidin-2-yl)-methylamine and 0.33 g (0.00248 mol) of thiophenol sodium salt were stirred in 15 ml of 1-methyl-2-pyrrolidone at 120° C. for 4 hrs. The solvent was removed and the residue was partitioned between water and diethyl ether. The ether phase was washed with sat. sodium chloride solution and dried over MgSO4. After filtration and removal of the solvent the residue was chromatographed on silica gel with diethyl ether/hexane 1:3 and subsequently dried in a high vacuum. There was obtained 0.24 g (65%) of (4-bromo-6-phenylsulphanylpyrimidin-2-yl)-methylamine as white crystals; m.p.: 122-124° C.

reactant | (4,6-dibromopyrimidin-2-yl)-methylamine | 0.00124 mol, 0.33 g | BrC1=NC(=NC(=C1)Br)NC | C5H5Br2N3
reactant | thiophenol sodium salt | 0.00248 mol, 0.33 g | [Na].C1(=CC=CC=C1)S
solvent | 1-methyl-2-pyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | (4-bromo-6-phenylsulphanylpyrimidin-2-yl)-methylamine | 0.24 g, 65% | BrC1=NC(=NC(=C1)SC1=CC=CC=C1)NC | C11H10BrN3S
